US09388195B2
B) Production of 6-benzyl-2-bromo-6,7-dihydroimidazo[1,5-a]thieno[3,2-d]pyrimidin-9(5H)-one
A mixture of a crude product (185 mg) of 2-[(benzylamino)methyl]-6-bromothieno[3,2-d]pyrimidin-4 (3H)-one, 37% aqueous formaldehyde solution (1 ml) and tetrahydrofuran (2 mL) was stirred at room temperature for 1 hr. The precipitate was collected by filtration, and washed successively with water and ethyl acetate to give a crude product (104 mg) of the title compound as a pale-yellow solid.

reactant | 2-[(benzylamino)methyl]-6-bromothieno[3,2-d]pyrimidin-4 (3H)-one | C(C1=CC=CC=C1)NCC=1NC(C2=C(N1)C=C(S2)Br)=O | C14H12BrN3OS
reactant | formaldehyde | 1 ml | C=O | CH2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-benzyl-2-bromo-6,7-dihydroimidazo[1,5-a]thieno[3,2-d]pyrimidin-9(5H)-one | 104 mg | C(C1=CC=CC=C1)N1CN2C(=NC3=C(C2=O)SC(=C3)Br)C1 | C15H12BrN3OS
